US09450195B2
One 2 L 3-neck flask was charged with 4-bromo-2,6-diisopropylaniline (19 g, 74.2 mmol) and toluene (200 ml). Trimethylaluminum (2M solution in toluene, 25 ml) was added dropwise into the reaction mixture at 0° C. After the addition was over, the ice bath was removed and reaction mixture was allowed to stir at room temperature (20-25° C.) for 3 hours. 3-methoxybenzonitrile (9.88 g, 74.2 mmol) in toluene (300 ml) was then added into reaction mixture. The reaction mixture was allowed to heated to 80° C. for 17 hours. The reaction mixture was poured slowly into a slurry of 200 gm of celite in 900 ml of a 2:1 mixture of DCM in methanol. The reaction mixture was then filtered and filtrate was evaporated to dryness, the residue was re-suspend with heptane and filtered to yield N-(4-bromo-2,6-diisopropylphenyl)-3-methoxybenzimidamide (19.73 g, 68%).

reactant | 4-bromo-2,6-diisopropylaniline | 74.2 mmol, 19 g | BrC1=CC(=C(N)C(=C1)C(C)C)C(C)C | C12H18BrN
reactant | Trimethylaluminum | 2M, 25 ml | C[Al](C)C
reactant | 3-methoxybenzonitrile | 74.2 mmol, 9.88 g | COC=1C=C(C#N)C=CC1 | C8H7NO
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-bromo-2,6-diisopropylphenyl)-3-methoxybenzimidamide | 19.73 g, 68% | BrC1=CC(=C(C(=C1)C(C)C)NC(C1=CC(=CC=C1)OC)=N)C(C)C | C20H25BrN2O
